US04870187
Cis-2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetic acid
A solution of 2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetic acid methyl ester (8.5 g, 29.3, mmol) in 1N NaOH (32 mL) and methanol (64 mL) was heated to reflux for 45 minutes. After evaporation under reduced pressure, the aqueous solution was washed once with diethyl ether and acidified with 1N HCl (33 mL). The precipitate was collected and recrystallized from ethyl acetate/isopropyl ether to afford 7.2 g (90%) of the title compound as a colorless solid; m.p.=153°-155° C.

reactant | 2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetic acid methyl ester | 8.5 g | COC(CC1OC(OC(C1)C=CC1=CC=CC=C1)(C)C)=O | C17H22O4
solvent | NaOH | 1N, 32 mL | [OH-].[Na+]
solvent | methanol | 64 mL | CO | CH4O
product | Cis-2,2-dimethyl-6-(2-phenylethenyl)-1,3-dioxane-4-acetic acid | 7.2 g, 90% | CC1(O[C@@H](C[C@@H](O1)CC(=O)O)C=CC1=CC=CC=C1)C | C16H20O4
